US07011897B2
2,4-Difluoro-5-(trifluoromethyl)bromobenzene (2.0 g, 7.7 mmol), 2-tributylstannylpyridine, and Bis(triphenylphosphine)palladium(II)chloride (0.16 g, 0.23 mmol) were added to 50 mL. xylenes and the mixture was heated to reflux for 16 hours. The reaction mixture was filtered through a silica gel plug and then purified with column chromatography to give 2-(2,4-difluoro-5-trifluoromethylphenyl)pyridine (1.4 g, 5.4 mmol). The product was confirmed by Mass Spectroscopy and 1H NMR.

reactant | 2,4-Difluoro-5-(trifluoromethyl)bromobenzene | 7.7 mmol, 2.0 g | FC1=C(C=C(C(=C1)F)C(F)(F)F)Br | C7H2BrF5
reactant | 2-tributylstannylpyridine | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
catalyst | Bis(triphenylphosphine)palladium(II)chloride | 0.23 mmol, 0.16 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(2,4-difluoro-5-trifluoromethylphenyl)pyridine | 5.4 mmol, 1.4 g | FC1=C(C=C(C(=C1)F)C(F)(F)F)C1=NC=CC=C1 | C12H6F5N
